US06635647B2
A solution of 2M LDA in THF/heptane/Et2O (147 ml, 0.294 mol) is diluted with 415 ml THF and cooled to 0°. At 5° to 10°, BH3.NH3 (10.05 g, 0.293 mol) is added portionwise. The solution is stirred at 0° for 15 minutes, at room temperature for 15 minutes and then recooled to 0°. Then, a solution of (S)-3-benzo[1,2,5]thiadiazol-5-yl-N-[(1R,2R)-2-hydroxy-1-methyl-2-phenyl-ethyl]-2,N-dimethyl-propionamide (27.2 g, 0.0736 mol) in THF (120 ml) is added dropwise over 30 minutes. The dark red solution is stirred at 0° for 3 h. 2 N HCl (700 ml) is added at 0° and the mixture stirred at this temperature for 30 minutes. Extraction with EtOAc (400 ml and 200 ml), washing of the organic phases with brine, drying with Na2SO4 and evaporation afford the crude product as a yellow-brown oil. MPLC purification (silicagel, 1 kg, EtOAc/hexane 2:1) yield pure (S)-3-Benzo[1,2,5]thiadiazol-5-yl-2-methyl-propan-1-ol as a yellow oil. ee=93.3% (HPLC on chiral stat. phase). TLC (silicagel, EtOAc/hexanes 2:1): rf 0.6.

reactant | LDA | 2M | [Li+].CC(C)[N-]C(C)C
reactant | THF heptane Et2O | 0.294 mol, 147 ml | C1CCOC1.CCCCCCC.CCOCC
reactant | NH3 | 0.293 mol, 10.05 g | N | H3N
reactant | (S)-3-benzo[1,2,5]thiadiazol-5-yl-N-[(1R,2R)-2-hydroxy-1-methyl-2-phenyl-ethyl]-2,N-dimethyl-propionamide | 0.0736 mol, 27.2 g | N1=C2C(=NS1)C=C(C=C2)C[C@@H](C(=O)N(C)[C@@H]([C@@H](C2=CC=CC=C2)O)C)C | C20H23N3O2S
reactant | HCl | 2 N, 700 ml | Cl | ClH
solvent | THF | 415 ml | C1CCOC1 | C4H8O
solvent | THF | 120 ml | C1CCOC1 | C4H8O
product | (S)-3-Benzo[1,2,5]thiadiazol-5-yl-2-methyl-propan-1-ol | N1=C2C(=NS1)C=C(C=C2)C[C@@H](CO)C | C10H12N2OS
